US04520193
A solution of the Z form of 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide (4.45 g) in acetonitrile (150 cc) is heated to 40° C. A solution of p-toluenesulphonic acid (monohydrate) (2.59 g) in acetonitrile (75 cc) is added dropwise in the course of 5 minutes. The mixture is stirred at 40° C. for 35 minutes and then poured into a saturated aqueous solution of sodium bicarbonate (200 cc). Distilled water (500 cc) is added and extraction is carried out with methylene chloride (500 cc). The organic phase is washed with distilled water (500 cc), dried over magnesium sulphate and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 20° C. This yields the Z form of 7-amino-2-benzhydryloxycarbonyl-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide (3.53 g) in the form of a hard brown foam.

reactant | 2-benzhydryloxycarbonyl-7-t-butoxycarbonylamino-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide | 4.45 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2S(CC1C=C(C)SC1=NN=C(S1)C)=O)NC(=O)OC(C)(C)C)=O | C31H32N4O6S3
reactant | p-toluenesulphonic acid | 2.59 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | 200 cc | C([O-])(O)=O.[Na+]
reactant | water | 500 cc | O | H2O
solvent | acetonitrile | 150 cc | C(C)#N | C2H3N
solvent | acetonitrile | 75 cc | C(C)#N | C2H3N
product | 7-amino-2-benzhydryloxycarbonyl-3-{2-[(2-methyl-1,3,4-thiadiazol-5-yl)-thio]-prop-1-en-1-yl}-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-5-oxide | 3.53 g | NC1C2S(CC(=C(N2C1=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C)SC1=NN=C(S1)C)=O | C26H24N4O4S3
